* ---------------------------------------------------------------------------
* Lumped equivalent circuit of the TI SWRA117D 2.45 GHz printed inverted-F
* antenna (left-hand layout), as fitted on 0.8 mm FR4 with the ground plane
* edge at the antenna feed line.
*
*   node 1 = feed (pad 1)      node 2 = ground (pad 2 / ground plane)
*
*   Cfeed : feed/ground-plane capacitance of the short arm
*   Rrad  : radiation + loss resistance at resonance
*   Lant  : equivalent series inductance of the radiating arm
*   Cant  : equivalent series capacitance of the radiating arm
*
* Lant/Cant set the series resonance to 2.454 GHz with a loaded Q of about 8
* (-10 dB bandwidth ~ 300 MHz), which is representative for this antenna on a
* board of this size.  It is a behavioural fit, NOT a field solution: replace
* the values with a fit to your own openEMS/VNA data before trusting a match
* to better than a few dB.  See ../README.md.
* ---------------------------------------------------------------------------
.subckt ANT_SWRA117D_2G4 1 2
Cfeed 1  2  0.35p
Rrad  1  n1 50
Lant  n1 n2 26n
Cant  n2 2  0.1618p
.ends ANT_SWRA117D_2G4
